US06248900B1
Preparation of 5-methoxy-4-methyl-2,4-dihydro-1,2,4-triazol-3-one
8.11 g (0.05 mol) of methyl N′-dimethoxymethylenehydrazinecarboxylate were dissolved in 25.4 g of methanol and admixed with 3.26 g (0.105 mol) of methylamine, dissolved in methanol, and the mixture was heated in an autoclave at 70° C. for 14 hours. The reaction mixture was concentrated under reduced pressure and taken up in water (10 ml). The mixture was acidified by addition of conc. HCl. The crystals which precipitated at 4° C. were filtered off and dried. This gave 1.89 g (29.3%) of 5-methoxy-4-methyl-2,4-dihydro-1,2,4-triazol-3-one in the form of a colourless solid. Melting point 146-148° C.

reactant | methyl N′-dimethoxymethylenehydrazinecarboxylate | 0.05 mol, 8.11 g | COC(=NNC(=O)OC)OC | C5H10N2O4
reactant | methylamine | 0.105 mol, 3.26 g | CN | CH5N
solvent | methanol | 25.4 g | CO | CH4O
product | 5-methoxy-4-methyl-2,4-dihydro-1,2,4-triazol-3-one | COC=1N(C(NN1)=O)C | C4H7N3O2
